US06570039B2
Process for Producing (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone
(3S)-3-Amino-1-chloro-4-phenyl-2-butanone hydrochloride (100 mg) was dissolved in water (4.3 ml). A solution (5.3 ml) of benzyl chloroformate (0.794 ml) in toluene was added to the obtained solution. Further, an aqueous solution (1.0 ml) of sodium hydrogencarbonate (71.9 mg) was added dropwise to the obtained mixture. They were stirred at room temperature for 50 minutes to conduct the reaction and then the aqueous layer was separated. The obtained toluene layer was analyzed by HPLC to find that (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone (118 mg) was obtained in a yield of 83%.

reactant | (3S)-3-Amino-1-chloro-4-phenyl-2-butanone hydrochloride | 100 mg | Cl.N[C@H](C(CCl)=O)CC1=CC=CC=C1
reactant | benzyl chloroformate | 5.3 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | 1.0 ml, 71.9 mg | C(O)([O-])=O.[Na+]
solvent | water | 4.3 ml | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3S)-3-benzyloxycarbonylamino-1-chloro-4-phenyl-2-butanone | yield of 83% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CCl)=O)CC1=CC=CC=C1 | C18H18ClNO3
